US06967216B2
1-Cyano-2-pivaloylaminodibenzothiophene
A mixture of 2-amino-1-cyanodibenzothiophene (J. Heterocyclyl. Chem., 1977, 14(7), 1209-1214; 0.043 g, 0.19 mmol), triethylamine (0.04 g, 0.4 mmol) and pivaloyl chloride (0.05 g, 0.4 mmol) in DCM (2 ml) was stirred at ambient temperature for 24 hours. The resultant mixture was extracted with water and the organic phase reduced to a residue which was triturated with ether/iso-hexane to give the title compound. NMR: 9.78 (s, 1H), 8.81 (m, 1H), 8.38 (d, 1H), 8.16 (m, 1H), 7.58 (m, 2H), 7.48 (d, 1H), 1.18 (s, 9H); m/z 307 (M−H)−.

reactant | 2-amino-1-cyanodibenzothiophene | 0.19 mmol, 0.043 g | NC1=C(C2=C(SC3=C2C=CC=C3)C=C1)C#N | C13H8N2S
reactant | triethylamine | 0.4 mmol, 0.04 g | C(C)N(CC)CC | C6H15N
reactant | pivaloyl chloride | 0.4 mmol, 0.05 g | C(C(C)(C)C)(=O)Cl | C5H9ClO
solvent | DCM | 2 ml | C(Cl)Cl | CH2Cl2
product | 1-Cyano-2-pivaloylaminodibenzothiophene | C(#N)C1=C(C=CC=2SC3=C(C21)C=CC=C3)NC(C(C)(C)C)=O | C18H16N2OS
